US04818754
7-[3-Acetoxypropylamino]-5-methyl-1H-pyrazolo[4,3-b]-pyridine (E6)
The title compound was prepared from 7(3-hydroxypropylamino)-5-methyl-1H-pyrazolo[4,3-b]pyridine (1.125 g) and acetyl chloride by the general method of Example 4 with the following addition. After removal of solvents under reduced pressure the crude reaction mixture was dissolved in water and brought to pH 9 with 10% sodium hydroxide. The resulting solid was collected and dried before purifying by column chromatography under the conditions used for Example 4. A clear gum was obtained which on trituration with ether gave the title compound as a white solid, m.p. 115°-119° C.

reactant | 7(3-hydroxypropylamino)-5-methyl-1H-pyrazolo[4,3-b]pyridine | 1.125 g | OCCCNC1=C2C(=NC(=C1)C)C=NN2 | C10H14N4O
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 7-[3-Acetoxypropylamino]-5-methyl-1H-pyrazolo[4,3-b]-pyridine | C(C)(=O)OCCCNC1=C2C(=NC(=C1)C)C=NN2 | C12H16N4O2
